US06284785B1
(RS)-2-(4-Fluoro-phenyl)-1-(2,4,6-trimethyl-benzenesulfonyl)-pyrrolidine
The title compound, white solid, m.p. 111° C. and MS: m/e=347 (M+) was prepared in accordance with the general method of example 1e from (RS)-2-(4-fluoro-phenyl)-pyrrolidine and 2,4,6-trimethyl-benzenesulfonyl chloride.

reactant | (RS)-2-(4-fluoro-phenyl)-pyrrolidine | FC1=CC=C(C=C1)C1NCCC1 | C10H12FN
reactant | 2,4,6-trimethyl-benzenesulfonyl chloride | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)Cl | C9H11ClO2S
product | (RS)-2-(4-Fluoro-phenyl)-1-(2,4,6-trimethyl-benzenesulfonyl)-pyrrolidine | FC1=CC=C(C=C1)C1N(CCC1)S(=O)(=O)C1=C(C=C(C=C1C)C)C | C19H22FNO2S
